US07238720B2
b) 2-Nitro-3-(2,2,2-Trifluoroethyl)oxytoluene
A mixture of 3-hydroxy-2-nitrotoluene (5 g), 2,2,2-trifluoroethyl methanesulfonate (8.7 g), anhydrous potassium carbonate (9 g) and N,N-dimethylformamide (40 ml) was heated, with stirring, on an oil bath at 80° C. for 4 hours, and then at 100° C. for 4 hours. The reaction solution was extracted with ethyl acetate-water. The organic layer was washed with water, followed by a dilute aqueous potassium carbonate solution and then saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate, and then filtered through NH silica gel, which was washed with ethyl acetate. The filtrate was concentrated under reduced pressure, and subjected to a silica-gel column chromatography with 5 to 10% ethyl acetate/hexane to yield the title compound (4.12 g).

reactant | 3-hydroxy-2-nitrotoluene | 5 g | OC=1C(=C(C=CC1)C)[N+](=O)[O-] | C7H7NO3
reactant | 2,2,2-trifluoroethyl methanesulfonate | 8.7 g | CS(=O)(=O)OCC(F)(F)F | C3H5F3O3S
reactant | potassium carbonate | 9 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 2-Nitro-3-(2,2,2-Trifluoroethyl)oxytoluene | 4.12 g | [N+](=O)([O-])C1=C(C=CC=C1OCC(F)(F)F)C | C9H8F3NO3
